US08980899B2
A solution of 3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.5 g, 1.95 mmol), K2CO3 (1.08 g, 7.8 mmol), and (S)-1-(tert-butoxycarbonyl)pyrrolidin-3-yl methanesulfonate (0.62 g, 2.34 mmol) in DMF (20 mL) was brought to 80° C. under an argon atmosphere. The reaction mixture was left stirring for 2 hours, then cooled and filtered. The filtrate was concentrated in vacuo, but not to dryness. 20 mL of 0.1 sodium citrate was added causing a solid to form, which was collected by filtration to afford (R)-tert-butyl 3-(4-amino-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)pyrrolidine-1-carboxylate (0.38 g, 46% yield). ESI-MS m/z [M+H]+ found 426.5, calculated 426.2.

reactant | 3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.95 mmol, 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N | C11H8N6O2
reactant | K2CO3 | 7.8 mmol, 1.08 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-1-(tert-butoxycarbonyl)pyrrolidin-3-yl methanesulfonate | 2.34 mmol, 0.62 g | CS(=O)(=O)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO5S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 3-(4-amino-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)pyrrolidine-1-carboxylate | 0.38 g, 46% yield | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)[N+](=O)[O-])[C@H]2CN(CC2)C(=O)OC(C)(C)C | C20H23N7O4
